US07612088B2
b) 4-(5,6,7,8-Tetrahydroimidazo[1,5-a]pyridin-5-yl)cyclohexanecarboxylic acid
A solution of 1.5 g of 4-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)benzoic acid [93178-73-5] in 5 ml of acetic acid is hydrogenated (50 bar) in the presence 0.05 g of Nishimura catalyst at room temperature. The reaction mixture is clarified by filtration, and the filtrate is evaporated. The crude title compound is obtained from the residue.

reactant | 4-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)benzoic acid | 1.5 g | C=1N=CN2C1CCCC2C2=CC=C(C(=O)O)C=C2 | C14H14N2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-(5,6,7,8-Tetrahydroimidazo[1,5-a]pyridin-5-yl)cyclohexanecarboxylic acid | C=1N=CN2C1CCCC2C2CCC(CC2)C(=O)O | C14H20N2O2
